US09450174B2
Composition measurement of γ-methyl-L-glutamic acid/γ-hexyl-L-glutamic acid copolymer.
The synthesized copolymer (10 mg) was dissolved in deuterated trifluoroacetic acid, and the 1H NMR was measured. As a result, a peak derived from the methyl group of γ-methyl-L-glutamic acid was detected near 3.8 ppm, and a peak derived from the proton at the α-position of γ-methyl-L-glutamic acid and γ-hexyl-L-glutamic acid was detected near 4.7 ppm. When peak area near 3.8 ppm is A and that near 4.7 ppm is B, A/B=1.17. Since A/B=3.00 for poly-γ-methyl-L-glutamic acid, the decreased portion is considered to be substituted by a hexyl group. Therefore, the content percentage of the hexyl group is 61% since 1.83/3.00=0.61. Hence, the composition of the copolymer is γ-methyl-L-glutamic acid (39%)/γ-hexyl-L-glutamic acid (61%).

reactant | γ-methyl-L-glutamic acid | CC(C[C@H](N)C(=O)O)C(=O)O | C6H11NO4
reactant | γ-hexyl-L-glutamic acid | C(CCCCC)C(C[C@H](N)C(=O)O)C(=O)O | C11H21NO4
product | γ-methyl-L-glutamic acid γ-hexyl-L-glutamic acid | CC(C[C@H](N)C(=O)O)C(=O)O.C(CCCCC)C(C[C@H](N)C(=O)O)C(=O)O | InChI=1S/C11H21NO4.C6H11NO4/c1-2-3-4-5-6-8(10(13)14)7-9(12)11(15)16;1-3(5(8)9)2-4(7)6(10)11/h8-9H,2-7,12H2,1H3,(H,13,14)(H,15,16);3-4H,2,7H2,1H3,(H,8,9)(H,10,11)/t8?,9-;3?,4-/m00/s1
